US07923555B2
Benzyl 4(8-chloroimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate
To a suspension of benzyl 4-{[(3-chloropyrazin-2-yl)methyl]carbamoyl}piperidine-4-carboxylate (0.100 g, 0.220 mmol) in EtOAc (0.9 mL) and DMF (0.068 mL) at 0° C. was slowly added POCl3 (0.082 mL, 0.88 mmol). After stirring at rt for an hour the mixture was cooled to 0° C. then treated with solid NaHCO3. The mixture was stirred for 20 min at rt, diluted with water and extracted with EtOAc (3×20 mL). The combined extracts were washed with water (2×30 mL) and brine (30 mL), then dried over Na2SO4, and concentrated in vacuo to yield 2.07 g of desired product. 1H NMR (400 MHz, CDCl3): δ 1.98-2.04 (m, 4H), 3.03-3.20 (m, 3H), 4.30-4.33 (m, 2H), 5.16 (s, 2H), 7.33 (d, J=5.2 Hz, 1H), 7.35-7.38 (m, 5H), 7.26 (d, J=4.4 Hz, 1H), 7.79 (s, 1H). MS (ES+): m/z 371.22 [MH+].

reactant | benzyl 4-{[(3-chloropyrazin-2-yl)methyl]carbamoyl}piperidine-4-carboxylate | 0.220 mmol, 0.100 g | ClC=1C(=NC=CN1)CNC(=O)C1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C19H21ClN4O3
reactant | POCl3 | 0.88 mmol, 0.082 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 0.9 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.068 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Benzyl 4(8-chloroimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | 2.07 g | ClC=1C=2N(C=CN1)C(=NC2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C19H19ClN4O2
